US04175189
45 G. of 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide are mixed in 600 ml. of methylene chloride with 90 ml. of triethylamine and cooled to 5° C. 90 Ml. of chloroformic acid methyl ester are added dropwise while stirring. The mixture is stirred at 5° C. for 30 minutes and at room temperature for 18 hours. Then, the mixture is treated with 100 ml. of methanol and subsequently extracted with 400 ml. of methylene chloride, washed with water, dried over potassium carbonate and evaporated under reduced pressure. Recrystallization of the residue from methanol yields dimethyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide, having a melting point of 202°-203° C.

reactant | 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide | NC1=NC(=CC(=[N+]1[O-])N)N1CCC=CC1 | C9H13N5O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | chloroformic acid methyl ester | COC(=O)Cl | C2H3ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | dimethyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide | N1(CCC=CC1)C1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C13H17N5O5
